### PR TITLE
[Merged by Bors] - feat(NumberTheory/NumberField): congruence for the norm of an unramified prime

### PR DESCRIPTION
**Pull request by xroblot**
Add `torsionOrder_dvd_absNorm_sub_one'`: if a prime `P` of `𝓞 K` is unramified over `ℤ` and the rational prime below it has norm greater than `2`, then `torsionOrder K` divides `absNorm P - 1`. This is a variant of `torsionOrder_dvd_absNorm_sub_one` that replaces the coprimality hypothesis by unramifiedness.
  
Also add the helper `pow_torsionOrder_eq_one`.

Co-authored-by: Ashleigh Ratcliffe
Co-authored-by: Bryan Hu

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 1]
```diff
@@ -103,6 +111,42 @@ theorem Ideal.torsionMapQuot_injective (hI₁ : absNorm I ≠ 1)
...
   exact rootsOfUnityMapQuot_injective (torsionOrder K) hI₁ hI₂ h
 
+open IntermediateField in
+/--
+If the prime ideal `P` is unramified over `ℤ` and the norm of the prime of `ℤ` lying under `P` is
+greater than `2`, then the map `Ideal.torsionMapQuot` is injective.
+-/
+theorem Ideal.torsionMapQuot_injective' {P : Ideal (𝓞 K)} [hP : P.IsPrime] [NeZero P]
+    (hP₁ : Algebra.IsUnramifiedAt ℤ P) (hP₂ : 2 < absNorm (under ℤ P)) :
+    Function.Injective (P.torsionMapQuot) := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]:
```suggestion
    Function.Injective P.torsionMapQuot := by
```

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 2]
```diff
@@ -103,6 +111,42 @@ theorem Ideal.torsionMapQuot_injective (hI₁ : absNorm I ≠ 1)
...
+  rw [injective_iff_map_eq_one]
+  by_contra!
+  obtain ⟨⟨ζ, hζ₀⟩, hζ₁, hζ₂⟩ := this
+  obtain ⟨n, hn, hζ₃⟩ : ∃ n, 2 ≤ n ∧ IsPrimitiveRoot (ζ : K) n := by
+    refine ⟨orderOf (ζ : K), (Nat.two_le_iff _).mpr ⟨?_, ?_⟩, IsPrimitiveRoot.orderOf _⟩
+    · rw [orderOf_ne_zero_iff, isOfFinOrder_iff_pow_eq_one]
+      exact ⟨torsionOrder K, torsionOrder_pos K,
+        (by rw [← map_pow, ← val_pow_eq_pow_val, pow_torsionOrder_eq_one _ hζ₀, val_one, map_one])⟩
+    · simpa [ne_eq, orderOf_eq_one_iff] using hζ₂
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: The new helper `IsPrimitiveRoot.coe_coe_iff` doesn't have a use site in this PR — but it slots in naturally here. Switching the witness from `orderOf (ζ : K)` to `orderOf ζ` lets us prove `orderOf ζ ≠ 0` directly from `hζ₀ ∈ torsion K` via `CommGroup.mem_torsion`, and the translation to `(ζ : K)` happens via one `coe_coe_iff.mpr` at the end — removing the `← map_pow, ← val_pow_eq_pow_val, pow_torsionOrder_eq_one _ hζ₀, val_one, map_one` cascade. Verified clean by `lake build`.

```suggestion
  obtain ⟨n, hn, hζ₃⟩ : ∃ n, 2 ≤ n ∧ IsPrimitiveRoot (ζ : K) n := by
    refine ⟨orderOf ζ, ?_, IsPrimitiveRoot.coe_coe_iff.mpr (IsPrimitiveRoot.orderOf ζ)⟩
    refine (Nat.two_le_iff _).mpr ⟨orderOf_ne_zero_iff.mpr ?_, ?_⟩
    · exact (CommGroup.mem_torsion ζ).mp hζ₀
    · simpa [orderOf_eq_one_iff] using hζ₂
```

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 3]
```diff
@@ -103,6 +111,42 @@ theorem Ideal.torsionMapQuot_injective (hI₁ : absNorm I ≠ 1)
...
+  have h_cpr := hζ₃.not_coprime_norm_of_mk_eq_one
+    (absNorm_eq_one_iff.not.mpr <| IsPrime.ne_top hP) hn
+    (by rwa [Units.ext_iff, torsionMapQuot_apply, val_one] at hζ₁)
+  let p := (Ideal.under ℤ P).absNorm
+  have hp := Nat.absNorm_under_prime P
+  have : Fact p.Prime := ⟨hp⟩
+  rw [P.absNorm_eq_pow_inertiaDeg' hp, Nat.coprime_pow_left_iff (Ideal.inertiaDeg_pos _ _),
+    (Nat.Prime.coprime_iff_not_dvd hp).not, not_not] at h_cpr
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: `(Nat.Prime.coprime_iff_not_dvd hp).not, not_not` is a double-negation around `Nat.Prime.dvd_iff_not_coprime`, which exists in mathlib (`Mathlib.Data.Nat.Prime.Basic`). Direct rewrite is one lemma instead of two.

```suggestion
  rw [P.absNorm_eq_pow_inertiaDeg' hp, Nat.coprime_pow_left_iff (Ideal.inertiaDeg_pos _ _),
    ← Nat.Prime.dvd_iff_not_coprime hp] at h_cpr
```

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 4]
```diff
@@ -116,6 +160,21 @@ theorem NumberField.torsionOrder_dvd_absNorm_sub_one {P : Ideal (𝓞 K)} (hP₀
...
+/--
+If the prime ideal `P` is unramified over `ℤ` and the norm of the prime of `ℤ` lying under `P` is
+greater than `2`, then the norm of `P` is congruent to `1` modulo `torsionOrder K`.
+-/
+theorem NumberField.torsionOrder_dvd_absNorm_sub_one' {P : Ideal (𝓞 K)} [hP : P.IsPrime] [NeZero P]
+    (hP₁ : Algebra.IsUnramifiedAt ℤ P) (hP₂ : 2 < absNorm (under ℤ P)) :
+    torsionOrder K ∣ absNorm P - 1 := by
+  have hP₀ : P ≠ ⊥ := by
+    contrapose! hP₂
+    simp [hP₂]
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: The `contrapose! + simp` pair collapses to one term-mode line: assume `P = ⊥`, then `simp [h]` evaluates `under ℤ ⊥ = ⊥` and `absNorm ⊥ = 0`, contradicting `hP₂ : 2 < …`.

```suggestion
  have hP₀ : P ≠ ⊥ := fun h ↦ by simp [h] at hP₂
```

**Review by CBirkbeck — COMMENTED** [review]
This review was drafted by Claude (Anthropic's AI assistant) on @CBirkbeck's machine — please feel free to ignore any or all of it.

A few minor questions and observations beyond the inline suggestions:

- **`IsPrimitiveRoot.coe_coe_iff`** (Units/Basic.lean L80-83) is declared but I couldn't find a use site in this PR. The inline suggestion on `torsionMapQuot_injective'` picks it up if you take that golf; otherwise — is it consumed by a follow-up, or can it be deferred?
- **`convert` → `convert!`** at `isUnit_iff_norm` (Units/Basic.lean L61) is unrelated to the feature: plain `convert` no longer closes the side-goal under current transparency defaults, so the `!` is needed. Worth a one-line mention in the commit body so it isn't surprising under `git blame`. Optionally split into a separate `chore:` commit.
- **Minor naming:** `torsionMapQuot_injective'` / `torsionOrder_dvd_absNorm_sub_one'` use `'` for "variant of" — established sibling pattern, fine as-is, but a descriptive suffix (`_of_unramified`) would be slightly more discoverable in autocompletion. Up to you.
- **Body length:** `torsionMapQuot_injective'` is 35 lines — below the cleanup `structure_gate` threshold (60), but the longest proof here. The cyclotomic-extension argument (L141-148) is a self-contained chunk that could be a private helper if you want a tighter main body. Not a blocker.

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 5]
```diff
@@ -103,6 +111,41 @@ theorem Ideal.torsionMapQuot_injective (hI₁ : absNorm I ≠ 1)
...
+    (hP₁ : Algebra.IsUnramifiedAt ℤ P) (hP₂ : 2 < absNorm (under ℤ P)) :
+    Function.Injective P.torsionMapQuot := by
+  rw [injective_iff_map_eq_one]
+  by_contra!
+  obtain ⟨⟨ζ, hζ₀⟩, hζ₁, hζ₂⟩ := this
+  obtain ⟨n, hn, hζ₃⟩ : ∃ n, 2 ≤ n ∧ IsPrimitiveRoot (ζ : K) n := by
+    refine ⟨orderOf ζ, ?_, IsPrimitiveRoot.coe_coe_iff.mpr (IsPrimitiveRoot.orderOf ζ)⟩
+    refine (Nat.two_le_iff _).mpr ⟨orderOf_ne_zero_iff.mpr ?_, ?_⟩
+    · exact (CommGroup.mem_torsion ζ).mp hζ₀
+    · simpa [orderOf_eq_one_iff] using hζ₂
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]:
```suggestion
    rw [Nat.two_le_iff, orderOf_ne_zero_iff]
    exact ⟨hζ₀, by simpa using hζ₂⟩
```

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 6]
```diff
@@ -103,6 +111,40 @@ theorem Ideal.torsionMapQuot_injective (hI₁ : absNorm I ≠ 1)
...
   exact rootsOfUnityMapQuot_injective (torsionOrder K) hI₁ hI₂ h
 
+open IntermediateField in
+/--
+If the prime ideal `P` is unramified over `ℤ` and the norm of the prime of `ℤ` lying under `P` is
+greater than `2`, then the map `Ideal.torsionMapQuot` is injective.
+-/
+theorem Ideal.torsionMapQuot_injective' {P : Ideal (𝓞 K)} [hP : P.IsPrime] [NeZero P]
+    (hP₁ : Algebra.IsUnramifiedAt ℤ P) (hP₂ : 2 < absNorm (under ℤ P)) :
+    Function.Injective P.torsionMapQuot := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: `NeZero P` shouldn't be necessary, right? It's implied by `2 < absNorm (under ℤ P)`. But also, even if `P = 0`, the theorem is still true, right?

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 7]
```diff
@@ -103,6 +111,40 @@ theorem Ideal.torsionMapQuot_injective (hI₁ : absNorm I ≠ 1)
...
+  obtain ⟨c, hc⟩ := h_cpr
+  have hζ_pow := IsPrimitiveRoot.pow (by grind) hζ₃ (by rwa [mul_comm])
+  let F := ℚ⟮(ζ : K) ^ c⟯
+  have : IsCyclotomicExtension {p} ℚ F :=
+    hζ_pow.intermediateField_adjoin_isCyclotomicExtension ℚ
+  suffices 1 < P.ramificationIdx' ℤ by
+    rwa [P.ramificationIdx'_eq_one ℤ, lt_self_iff_false] at this
+  rw [Ideal.ramificationIdx'_tower (P.under (𝓞 F)) P,
+    IsCyclotomicExtension.Rat.ramificationIdx_eq_of_prime p F]
+  exact one_lt_mul_of_lt_of_le (by rwa [Nat.lt_sub_iff_add_lt']) <| P.ramificationIdx'_pos (𝓞 F)
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: The inequalities/divisibilities of ramification index for towers that I added in #41196 might make this a bit easier?

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 8]
```diff
@@ -116,6 +158,19 @@ theorem NumberField.torsionOrder_dvd_absNorm_sub_one {P : Ideal (𝓞 K)} (hP₀
...
+greater than `2`, then the norm of `P` is congruent to `1` modulo `torsionOrder K`.
+-/
+theorem NumberField.torsionOrder_dvd_absNorm_sub_one' {P : Ideal (𝓞 K)} [hP : P.IsPrime] [NeZero P]
+    (hP₁ : Algebra.IsUnramifiedAt ℤ P) (hP₂ : 2 < absNorm (under ℤ P)) :
+    torsionOrder K ∣ absNorm P - 1 := by
+  have hP₀ : P ≠ ⊥ := fun h ↦ by simp [h] at hP₂
+  have : P.IsMaximal := Ring.DimensionLEOne.maximalOfPrime hP₀ hP
+  let _ := Ideal.Quotient.field P
+  have h := Subgroup.card_dvd_of_injective _ (torsionMapQuot_injective' hP₁ hP₂)
+  rwa [Nat.card_eq_fintype_card, Nat.card_units] at h
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: I've opened #41210 to avoid this fintype switching.

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 9]
```diff
@@ -103,6 +111,41 @@ theorem Ideal.torsionMapQuot_injective (hI₁ : absNorm I ≠ 1)
...
+  rw [P.absNorm_eq_pow_inertiaDeg' hp, Nat.coprime_pow_left_iff (Ideal.inertiaDeg_pos _ _),
+    ← Nat.Prime.dvd_iff_not_coprime hp] at h_cpr
+  obtain ⟨c, hc⟩ := h_cpr
+  have hζ_pow := IsPrimitiveRoot.pow (by grind) hζ₃ (by rwa [mul_comm])
+  let F := ℚ⟮(ζ : K) ^ c⟯
+  have : IsCyclotomicExtension {p} ℚ F :=
+    hζ_pow.intermediateField_adjoin_isCyclotomicExtension ℚ
+  suffices 1 < P.ramificationIdx' ℤ by
+    rwa [P.ramificationIdx'_eq_one ℤ, lt_self_iff_false] at this
+  rw [Ideal.ramificationIdx'_tower (P.under (𝓞 F)) P,
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: You might need to merge master (the two definitions of `ramificationIdx'` have just been swapped).

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean (hunk 7 above)
Comment (tb65536) [reply Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: This was marked as resolved, but I don't think it was addressed?

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: Oh sorry, I missed the fact that you added some divisibility helper lemmas. It does make the proof a bit simpler

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: Thanks!

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 10]
```diff
@@ -116,6 +158,19 @@ theorem NumberField.torsionOrder_dvd_absNorm_sub_one {P : Ideal (𝓞 K)} (hP₀
   have h := Subgroup.card_dvd_of_injective _ (torsionMapQuot_injective hP₃ hP₂)
   rwa [Nat.card_units] at h
 
+/--
+If the prime ideal `P` is unramified over `ℤ` and the norm of the prime of `ℤ` lying under `P` is
+greater than `2`, then the norm of `P` is congruent to `1` modulo `torsionOrder K`.
+-/
+theorem NumberField.torsionOrder_dvd_absNorm_sub_one' {P : Ideal (𝓞 K)} [hP : P.IsPrime]
+    (hP₁ : Algebra.IsUnramifiedAt ℤ P) (hP₂ : 2 < absNorm (under ℤ P)) :
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: In theory you could generalize this to `absNorm \neq 2` (since everything divides zero).

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: Indeed. I just had to change `[P.IsPrime]` to `[P.IsMaximal]` in addition to exclude the case where `P` is the zero ideal

Comment (tb65536) [reply Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: Shouldn't it still hold for the zero ideal (since everything divides zero)?

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: I think I'm missing something: the result says that `N P \equiv 1 mod w_K`, so it don't see how it can be true if `P = bot`

Comment (tb65536) [reply Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: But it's phrased in terms of nat subtraction where 0-1=0 and everything divides 0.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Ideal/Basic.lean]: Oh, I see what you meant now! Sorry for being so slow. Some Mathlib subtleties still elude me 😅

File: Mathlib/NumberTheory/NumberField/Ideal/Basic.lean [hunk 11]
```diff
@@ -103,9 +114,49 @@ theorem Ideal.torsionMapQuot_injective (hI₁ : absNorm I ≠ 1)
...
 
+open IntermediateField in
+/--
+If the prime ideal `P` is unramified over `ℤ` and the norm of the prime of `ℤ` lying under `P` is
+greater than `2`, then the map `Ideal.torsionMapQuot` is injective.
+
+See `Ideal.torsionMapQuot_injective` for a version where, instead, the norm of the ideal is
+assumed coprime with `torsionOrder K`.
+-/
+theorem Ideal.torsionMapQuot_injective' {P : Ideal (𝓞 K)} [hP : P.IsPrime]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Ideal/Basic.lean:135]: Can you add the `inj` version? See https://leanprover-community.github.io/contribute/naming.html#injectivity.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+
